US06893859B2
(a) (4S)-3-[(2S,3S,6R,7S,8S)-5-oxo-3-hydroxy-2,4,4,6,8-pentamethyl-7-(2,2,2-trichloroethoxycarbonyloxy)-10-undecenoyl]-4-benzyloxazolidinone
A solution of (4S)-3-propionyl-4-benzyloxazolidinone (91 mmol) in 200 mL of CH2Cl2 at 0° C. is treated sequentially with dibutylboron triflate (27 mL) and triethylamine (16.7 mL) at such a rate so as to keep the reaction temperature below 3° C. After stirring for 30 minutes, the mixture is cooled to −78° C. and treated with a solution of (4R,5S,6S)-3-oxo-5-(2,2,2-trichloroethoxycarbonyloxy)-2,2,4,6-tetramethyl-8-nonenal (90 mmol) in 10 mL of CH2Cl2. After 1 hour, the mixture is allowed to warm slowly to 0° C. and stirred an additional 1 hour. The reaction is quenched by addition of 100 mL of pH 7 phosphate buffer and 300 mL of methanol. A mixture of 2:1 methanol/30% aq. H2O2 (300 mL) is then added while maintaining the temperature below 10° C. After stirring for 1 hour, the mixture is concentrated under vacuum to a slurry, which is extracted with ether. The extract is washed sequentially with 5% NaHCO3 and brine, dried over MgSO4, filtered, and evaporated. The product is isolated by silica gel chromatography.

reactant | (4S)-3-propionyl-4-benzyloxazolidinone | 91 mmol | C(CC)(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O | C13H15NO3
reactant | dibutylboron triflate | 27 mL | [O-]S(=O)(=O)C(F)(F)F.C(CCC)[B+]CCCC
reactant | triethylamine | 16.7 mL | C(C)N(CC)CC | C6H15N
reactant | (4R,5S,6S)-3-oxo-5-(2,2,2-trichloroethoxycarbonyloxy)-2,2,4,6-tetramethyl-8-nonenal | 90 mmol | O=C(C(C=O)(C)C)[C@@H]([C@H]([C@H](CC=C)C)OC(=O)OCC(Cl)(Cl)Cl)C | C16H23Cl3O5
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (4S)-3-[(2S,3S,6R,7S,8S)-5-oxo-3-hydroxy-2,4,4,6,8-pentamethyl-7-(2,2,2-trichloroethoxycarbonyloxy)-10-undecenoyl]-4-benzyloxazolidinone | O=C(C([C@H]([C@@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)C)O)(C)C)[C@@H]([C@H]([C@H](CC=C)C)OC(=O)OCC(Cl)(Cl)Cl)C | C29H38Cl3NO8
